US09278944B2
To a solution of 3′,4′-dihydroxyacetophenone (25.4 g) in N,N-dimethylacetamide (420 mL) were added potassium carbonate (23.1 g) and benzyl bromide (19.9 mL) under ice-cooling, and the mixture was stirred at room temperature for 90 minutes. An insoluble was filtered, and then diluted with ethyl acetate. The organic layer was sequentially washed with water and saturated saline, dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane→n-hexane/ethyl acetate=20/1), and then triturated with ethyl acetate to give 1-[4-(benzyloxy)-3-hydroxyphenyl]ethanone [REx(26-1)] (11.0 g) as a colorless powder.

reactant | 3′,4′-dihydroxyacetophenone | 25.4 g | OC=1C=C(C=CC1O)C(C)=O | C8H8O3
reactant | potassium carbonate | 23.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 19.9 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylacetamide | 420 mL | CN(C(C)=O)C | C4H9NO
product | 1-[4-(benzyloxy)-3-hydroxyphenyl]ethanone | 11.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)=O)O | C15H14O3
